US07807677B2
[(1S)-1-(N′-Benzyl-hydrazinocarbonyl)-2,2-dimethyl-propyl]-carbamic acid benzyl ester (4)
The general procedure for the preparation of hydrazides described above was followed using Cbz-(L)-tert-leucine (2.00 g, 4.48 mmol), EDAC (0.969 g, 5.05 mmol), HOBT (0.669 g, 4.95 mmol), NMM (0.542 mL, 4.93 mmol), benzylhydrazine×2HCl (0.962 g, 4.93 mmol) and Et3N (1.38 mL, 9.85 mmol) which gave the title compound (1.11 g, 67%) as a low melting solid.

reactant | Cbz-(L)-tert-leucine | 4.48 mmol, 2.00 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](C(C)(C)C)C(=O)O | C14H19NO4
reactant | EDAC | 5.05 mmol, 0.969 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 4.95 mmol, 0.669 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NMM | 4.93 mmol, 0.542 mL | CN1CCOCC1 | C5H11NO
reactant | benzylhydrazine | C(C1=CC=CC=C1)NN | C7H10N2
reactant | Et3N | 9.85 mmol, 1.38 mL | CCN(CC)CC | C6H15N
product | [(1S)-1-(N′-Benzyl-hydrazinocarbonyl)-2,2-dimethyl-propyl]-carbamic acid benzyl ester | 1.11 g, 67% | C(C1=CC=CC=C1)OC(N[C@@H](C(C)(C)C)C(=O)NNCC1=CC=CC=C1)=O | C21H27N3O3
